US04656273
Production of N-[2-(N,N-dimethylsulfamoyl)-phenylsulfonyl]-N'-(4-chloromethyl-6-methoxypyrimidin-2-yl)-urea
26.4 g of 2-(N,N-dimethylsulfamoyl)-benzenesulfonamide (0.1 mol) are suspended in 100 ml of acetonitrile; 15.7 g of 1,8-diazabicyclo(5,4,0)undec-7-ene DBU (0.1 mol) are added, and the mixture is stirred for 1 hour at room temperature. There are then added 21.4 g of diphenyl carbonate (0.1 mol) and stirring is continued for 1 hour. After a standing time of 15 hours, 9.7 g of methanesulfonic acid (0.1 mol) are added dropwise in the cold state. There are afterwards added 17.3 g of 2-amino-4-chloromethyl-6-methoxypyrimidine (0.1 mol), and the suspension is refluxed for 1 hour, in the course of which there is firstly formed a solution from which, after a short time, the product precipitates in crystalline form. The reaction mixture is cooled and the product is filtered off under suction to thus obtain 32 g of slightly yellowish product; m.p. 214°-216° C. (decomp.); yield 70% of theory.

reactant | 2-(N,N-dimethylsulfamoyl)-benzenesulfonamide | 0.1 mol, 26.4 g | CN(S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N)C | C8H12N2O4S2
reactant | 1,8-diazabicyclo(5,4,0)undec-7-ene DBU | 0.1 mol, 15.7 g | N12CCCCCC2=NCCC1.C1CCC2=NCCCN2CC1 | 2C9H16N2
reactant | diphenyl carbonate | 0.1 mol, 21.4 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | methanesulfonic acid | 0.1 mol, 9.7 g | CS(=O)(=O)O | CH4O3S
reactant | 2-amino-4-chloromethyl-6-methoxypyrimidine | 0.1 mol, 17.3 g | NC1=NC(=CC(=N1)CCl)OC | C6H8ClN3O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-[2-(N,N-dimethylsulfamoyl)-phenylsulfonyl]-N'-(4-chloromethyl-6-methoxypyrimidin-2-yl)-urea | yield 70% | CN(S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)CCl)OC)C | C15H18ClN5O6S2
